US06844345B2
e) (4-Bromo-3-fluoro-phenyl)-carbamic acid methyl ester
The title compound, m.p. 121-122° C., was prepared in accordance with the general method of example 26g) from 4-bromo-3-fluoroaniline and methyl chloroformate.

reactant | 4-bromo-3-fluoroaniline | BrC1=C(C=C(N)C=C1)F | C6H5BrFN
reactant | methyl chloroformate | ClC(=O)OC | C2H3ClO2
product | (4-Bromo-3-fluoro-phenyl)-carbamic acid methyl ester | COC(NC1=CC(=C(C=C1)Br)F)=O | C8H7BrFNO2
